US07034039B2
A suspension of tert-butyl[6-benzyloxy-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (4.21 g, 8 mmol) and 5% palladium carbon (2.0 g) in ethanol (20 ml) and tetrahydrofuran (20 ml) was stirred under a hydrogen atmosphere at room temperature for 2 h. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[6-hydroxy-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (3.28 g, 94.0%) as crystals.

reactant | tert-butyl[6-benzyloxy-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 8 mmol, 4.21 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC1=CC=CC=C1)=O)CC(C)C)=O | C33H38N2O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 2.0 g | [C].[Pd]
product | tert-butyl[6-hydroxy-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 3.28 g, 94.0% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)O)=O)CC(C)C)=O | C26H32N2O4
